US07705023B2
(a) 1-Bromo-4-(cyclobutylmethoxy)benzene
4-Bromophenol (2.5 g, 14.5 mmol), (bromomethyl)cyclobutane (1.6 mL, 15 mmol), sodium hydroxide (0.8 g, 20 mmol) and DMF (3 mL) were allowed to react to yield the sub-title compound (1.3 g, 36%).

reactant | 4-Bromophenol | 14.5 mmol, 2.5 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | (bromomethyl)cyclobutane | 15 mmol, 1.6 mL | BrCC1CCC1 | C5H9Br
reactant | sodium hydroxide | 20 mmol, 0.8 g | [OH-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-Bromo-4-(cyclobutylmethoxy)benzene | 1.3 g, 36% | BrC1=CC=C(C=C1)OCC1CCC1 | C11H13BrO
